US05571775
26. Preparation of 2-Benzylthio-5-chloro[1,2,4]triazolo[1,5-a]pyridine
A solution of 8-amino-2-benzylthio-5-chloro[1,2,4]triazolo[1,5-a]pyridine (9.0 g, 0.031 mol) and acetic acid (2.0 g, 0.033 mol) in tetrahydrofuran (100 mL) was added dropwise with stirring over 30 min to a solution of t-butyl nitrite (6.4 g, i0.062 mol) in tetrahydrofuran (500 mL) at 50°-55° C. and allowed to react another 15 minutes after the addition was complete. The volatiles were removed by evaporation under reduced pressure and the residue obtained was chromatographed on silica gel eluting with a gradient of 5-15 percent ethyl acetate in hexane. The product fractions were concentrated by evaporation under reduced pressure to obtain 3.4 g (37 percent of theory) of the title compound as a dark low-melting solid.

reactant | 8-amino-2-benzylthio-5-chloro[1,2,4]triazolo[1,5-a]pyridine | 0.031 mol, 9.0 g | NC=1C=2N(C(=CC1)Cl)N=C(N2)SCC2=CC=CC=C2 | C13H11ClN4S
reactant | acetic acid | 0.033 mol, 2.0 g | C(C)(=O)O | C2H4O2
reactant | t-butyl nitrite | 6.4 g | N(=O)OC(C)(C)C | C4H9NO2
solvent | tetrahydrofuran | 100 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 500 mL | O1CCCC1 | C4H8O
product | 2-Benzylthio-5-chloro[1,2,4]triazolo[1,5-a]pyridine | C(C1=CC=CC=C1)SC1=NN2C(C=CC=C2Cl)=N1 | C13H10ClN3S
